US04544667
Step A: Preparation of 5-Methoxymethylbenzo[b]furan
To a stirred mixture of powdered KOH in dimethylsulfoxide is added 5-hydroxymethylbenzo[b]furan in dimethylsulfoxide. Then methyl iodide is added dropwise at ambient temperature over several minutes to provide the title compound.

reactant | KOH | [OH-].[K+]
reactant | 5-hydroxymethylbenzo[b]furan | OCC1=CC2=C(OC=C2)C=C1 | C9H8O2
reactant | methyl iodide | CI | CH3I
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 5-Methoxymethylbenzo[b]furan | COCC1=CC2=C(OC=C2)C=C1 | C10H10O2
